US07491730B2
6-tert-Butyl-2-(2-trifluoromethyl-phenyl)-3H-pyrimidin-4-one
A mixture of 2-trifluoromethylbenzamidine (1.12 g, 5 mmol), sodium ethoxide (1.02 g, 15 mmol) and 4,4-dimethyl-3-oxo-pentanoic acid methyl ester (0.80 mL, 5 mmol) in ethanol (50 mL) and was heated at reflux for 16 hours. The reaction was cooled, concentrated, diluted with water and acidified with 2 N hydrochloric acid. This solution was extracted with ethyl acetate, dried over sodium sulfate and concentrated. Purification by flash chromatography [SiO2, methanol:dichloromethane (2:98)] provided the title compound (0.48 g, 32% yield) as a yellow solid; 1H-NMR (500 MHz, DMSO-d6) δ12.8 (br s, 1H), 7.89 (d, J=7.5 Hz, 1H), 7.78 (m, 2H), 7.71 (d, J=7.4 Hz, 1H), 6.24 (s, 1H), 1.20 (s, 9H) ppm; LC-MS 297.03 (M+H); Rt (Method A) 3.30 minutes.

reactant | 2-trifluoromethylbenzamidine | 5 mmol, 1.12 g | FC(C1=C(C(=N)N)C=CC=C1)(F)F | C8H7F3N2
reactant | sodium ethoxide | 15 mmol, 1.02 g | [O-]CC.[Na+]
reactant | 4,4-dimethyl-3-oxo-pentanoic acid methyl ester | 5 mmol, 0.80 mL | COC(CC(C(C)(C)C)=O)=O | C8H14O3
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 6-tert-Butyl-2-(2-trifluoromethyl-phenyl)-3H-pyrimidin-4-one | 0.48 g, 32% yield | C(C)(C)(C)C1=CC(NC(=N1)C1=C(C=CC=C1)C(F)(F)F)=O | C15H15F3N2O
